US08975254B2
g) Pyridine-2-carboxylic acid {(E)-2-[5-(3,4-dichlorophenyl)furan-2-yl]-vinyl}amide
Pyridine-2-carboxylic acid [(E)-2-(5-bromofuran-2-yl)vinyl]amide (0.014 g, 0.0477 mmol) was dissolved in 1,4-dioxane (4.2 ml) in a microwave reaction vial. 3,4-Dichlorophenylboronic acid (0.0091 g, 0.0477 mmol), potassium phosphate tribasic (0.020 g, 0.0954 mmol), 0.7 ml of water and tetrakis(triphenylphosphine)-palladium(0) (0.005 g, 0.0047 mmol) were added. After removal of oxygen the reaction mixture was irradiated for 10 min at 160° C. Then water (7 ml) was added. The product was extracted into EtOAc (2×15 ml). The organic phase was washed with water, dried over Na2SO4 and evaporated. The crude product was purified by flash chromatography (eluent: heptane-EtOAc 7:3). 1H NMR (400 MHz, CDCl3): 6.26 (1H, d), 6.29 (1H, d), 6.66 (1H, d), 7.45 (1H, distorted d), 7.48-7.52 (2H, m), 7.69-7.76 (2H, m), 7.91 (1H, td), 8.27 (1H, d), 8.61 (1H, dd), 9.88 (1H, d).

reactant | Pyridine-2-carboxylic acid [(E)-2-(5-bromofuran-2-yl)vinyl]amide | 0.0477 mmol, 0.014 g | BrC1=CC=C(O1)/C=C/NC(=O)C1=NC=CC=C1 | C12H9BrN2O2
reactant | 3,4-Dichlorophenylboronic acid | 0.0477 mmol, 0.0091 g | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | potassium phosphate tribasic | 0.0954 mmol, 0.020 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.7 ml | O | H2O
solvent | 1,4-dioxane | 4.2 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.0047 mmol, 0.005 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Pyridine-2-carboxylic acid {(E)-2-[5-(3,4-dichlorophenyl)furan-2-yl]-vinyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)/C=C/NC(=O)C1=NC=CC=C1 | C18H12Cl2N2O2
